US07507740B2
(i) Production of 2-{2-[7-(methylthio)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]ethoxy}ethyl benzoate
A mixture of 7-(methylthio)-1H-pyrazolo[4,3-d]pyrimidine (747 mg), 2-{2-[(methylsulfonyl)oxy]ethoxy}ethyl benzoate (1.43 g), potassium carbonate (931 mg) and N,N-dimethylformamide (12 mL) was stirred at 60° C. for 4 hrs. The reaction mixture was poured into water (30 mL), and the mixture was extracted with ethyl acetate (50 mL×2). The organic layers were combined, washed with saturated brine and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→20:80), and further purified by basic silica gel column chromatography (eluent, hexane:ethyl acetate=90:10→40:60) to give the title compound (533 mg).

reactant | 7-(methylthio)-1H-pyrazolo[4,3-d]pyrimidine | 747 mg | CSC=1C2=C(N=CN1)C=NN2 | C6H6N4S
reactant | 2-{2-[(methylsulfonyl)oxy]ethoxy}ethyl benzoate | 1.43 g | C(C1=CC=CC=C1)(=O)OCCOCCOS(=O)(=O)C | C12H16O6S
reactant | potassium carbonate | 931 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | 2-{2-[7-(methylthio)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]ethoxy}ethyl benzoate | 533 mg | C(C1=CC=CC=C1)(=O)OCCOCCN1N=CC=2N=CN=C(C21)SC | C17H18N4O3S
